US06069141
Preparation of N-({3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-4,5-dihydro-5-isoxazolyl}methyl)ethanethioamide
1.0 g (3.0 mmole) of N-({3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-4,5-dihydro-5-isoxazolyl}methyl)acetamide is suspended in 12 ml dioxane in a 50 ml one neck round bottom flask under nitrogen. The suspension is treated with Lawesson's Reagent (1.27 g, 3.15 mmole) and the reaction is stirred at 80° C. for 1 hour. The mixture is cooled to room temperature, brought to homogeneity with dichloromethane and is treated with 10 g silica gel (230-400 mesh) and is concentrated to dryness. The plug is loaded onto a SIM and the material is chromatographed twice over 40 g silica gel (BIOTAGE), eluting with 7% acetone/dichloromethane while collecting 25 ml fractions. Fractions 6-13 are combined and concentrated to afford 902 mg (85%) of the title compound as a solid. mp=219-220° C.

reactant | N-({3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-4,5-dihydro-5-isoxazolyl}methyl)acetamide | 3.0 mmole, 1.0 g | FC=1C=C(C=CC1N1CCSCC1)C1=NOC(C1)CNC(C)=O | C16H20FN3O2S
reactant | Lawesson's Reagent | 3.15 mmole, 1.27 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | N-({3-[3-fluoro-4-(4-thiomorpholinyl)phenyl]-4,5-dihydro-5-isoxazolyl}methyl)ethanethioamide | 902 mg, 85% | FC=1C=C(C=CC1N1CCSCC1)C1=NOC(C1)CNC(C)=S | C16H20FN3OS2
